US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-fluoro-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound (178 mg) was prepared in 67% yield from cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide and 1-bromomethyl-4-fluoro-benzene according to the procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.74 (d, 2 H, J=8.0 Hz), 7.60 (d, 2 H, J=8.0 Hz), 7.28 (m, 3 H), 7.05 (m, 2 H), 6.67 (s, 1 H), 4.54 (AB2,2 H,Δv=17,Jab=57 Hz), 3.87 (m, 1 H), 2.76 (m, 1 H), 2.45 (m, 1 H), 1.47 (m, 6 H), 0.97 (m, 1 H); MS m/e 425.02 (M+H)+.

reactant | cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-fluoro-benzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-fluoro-benzyl)-amino]-cyclohexanecarboxylic acid amide | 178 mg, 67% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)F | C20H22ClFN2O3S
